US08048894B2
Method 1. Preparation of Ethyl 7,8-difluoro-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate
Methyl 3,4-difluoro-2-(methylamino)benzoate. A mixture of methyl 2,3,4-trifluorobenzoate (available from Oakwood Products, West Columbia, S.C.) (5.00 g, 26 mmol), and potassium carbonate (4.0 g, 29 mmol) was treated with 2M methylamine in THF (17 mL, 34 mmol), and stirred at 24° C. for 18 hours. The mixture was diluted with EtOAc, washed with water, dried over MgSO4, and evaporated. The crude product was purified by flash chromatography (EtOAc/hexanes) to give the title compound. MS (ESI) m/z: Calculated; 201.2: Observed; 202.1. 1H NMR (300 MHz, CDCl3) δ ppm 7.54-7.67 (1H, m), 6.26-6.43 (1H, m), 3.94 (1H, s), 3.84 (3H, s), 3.15 (3H, dd, J=6.8, 5.5 Hz).

reactant | Methyl 3,4-difluoro-2-(methylamino)benzoate | FC=1C(=C(C(=O)OC)C=CC1F)NC | C9H9F2NO2
reactant | methyl 2,3,4-trifluorobenzoate | 26 mmol, 5.00 g | FC1=C(C(=O)OC)C=CC(=C1F)F | C8H5F3O2
reactant | potassium carbonate | 29 mmol, 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methylamine | 2M | CN | CH5N
reactant | THF | 34 mmol, 17 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 7,8-difluoro-4-hydroxy-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate | FC1=CC=C2C(=C(C(N(C2=C1F)C)=O)C(=O)OCC)O | C13H11F2NO4
